US04659727
A mixture of 3,5-dihydroxyaniline (2.0 g), 2-ethoxy-1,1-bis(ethoxycarbonyl)ethene (3.0 g) and ethanol (10 ml) was left to stand at room temperature for 2 days. The resulting solid was filtered off, dissolved in dimethylsulphoxide (20 ml) and then treated with water (100 ml). The resulting solid was washed with water, to give 1,1-bis(ethoxycarbonyl)-2-(3,5-dihydroxyphenylamino)ethene (3.2 g), m.p. 190°-192° C.

reactant | 3,5-dihydroxyaniline | 2.0 g | OC=1C=C(N)C=C(C1)O | C6H7NO2
reactant | 2-ethoxy-1,1-bis(ethoxycarbonyl)ethene | 3.0 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,1-bis(ethoxycarbonyl)-2-(3,5-dihydroxyphenylamino)ethene | 3.2 g | C(C)OC(=O)C(=CNC1=CC(=CC(=C1)O)O)C(=O)OCC | C14H17NO6
